US05155113
Preparation of 2-acetoxy-5-chloro-4-hydroxypyridine
A 2.09 ml quantity of acetyl bromide and 0.10 ml of stannic chloride were added to a solution of 5.00 g of 2,4-bis(trimethylsilyloxy)-5-chloropyridine in 250 ml of dried dichloromethane. The mixture was stirred at room temperature for 3.5 hours. The mixture was neutralized with triethylamine and the solvent was distilled off. The residue was subjected to silica gel column chromatography using 40% ethyl acetate-benzene as an eluent, giving 2.07 g of the title compound in a yield of 64%.

reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
reactant | 2,4-bis(trimethylsilyloxy)-5-chloropyridine | 5.00 g | C[Si](OC1=NC=C(C(=C1)O[Si](C)(C)C)Cl)(C)C | C11H20ClNO2Si2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-acetoxy-5-chloro-4-hydroxypyridine | 2.07 g, yield of 64% | C(C)(=O)OC1=NC=C(C(=C1)O)Cl | C7H6ClNO3
